US06004478
Preparation of 4'-(trans-4-(3-methyl-n-butyl)-4-silacyclohexyl)-4-(3,3,3-trifluoro-n-propoxy)biphenyl
The general procedure of Example 17 was repeated using 4'-bromo-4-(t-butyldimethylsiloxy)biphenyl, 4-(3-methyl-n-butyl)-4-phenyl-4-silacyclohexanone, and 1-bromo-3,3,3-trifluoro-n-propane, thereby obtaining the intended compound.

reactant | 4'-bromo-4-(t-butyldimethylsiloxy)biphenyl | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C18H23BrOSi
reactant | 4-(3-methyl-n-butyl)-4-phenyl-4-silacyclohexanone | CC(CC[Si]1(CCC(CC1)=O)C1=CC=CC=C1)C | C16H24OSi
reactant | 1-bromo-3,3,3-trifluoro-n-propane | BrCCC(F)(F)F | C3H4BrF3
product | 4'-(trans-4-(3-methyl-n-butyl)-4-silacyclohexyl)-4-(3,3,3-trifluoro-n-propoxy)biphenyl | CC(CC[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCC(F)(F)F)C | C25H33F3OSi
